US07906645B2
1,4-Dimethylpiperazin-2-yl carboxylic acid
Ethyl 1,4-dimethylpiperazin-2-yl carboxylic acid (1.86 g) was dissolved in EtOH (10 mL) and 5M aqueous NaOH (20 mL) added. The mixture was refluxed for 2 hours, allowed to cool, 10M HCl (9.1 mL) added to give pH4 and the mixture evaporated to dryness. The white solid was stirred with MeOH (25 mL), CH2Cl2 (10 mL) added and the filtrate evaporated to give, after trituration with Et2O, the title compound as a grey solid (761 mg, 48%).

reactant | Ethyl 1,4-dimethylpiperazin-2-yl carboxylic acid | 1.86 g | C(C)OC(=O)C1N(CCN(C1)C)C | C9H18N2O2
reactant | NaOH | 5M, 20 mL | [OH-].[Na+]
reactant | HCl | 10M, 9.1 mL | Cl | ClH
reactant | Et2O | CCOCC | C4H10O
solvent | EtOH | 10 mL | CCO | C2H6O
product | 1,4-Dimethylpiperazin-2-yl carboxylic acid | 761 mg, 48% | CN1C(CN(CC1)C)C(=O)O | C7H14N2O2
